US07595327B2
To a solution of 1-(2-hydroxy-ethyl)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid ethyl ester (0.6 g, 1.14 mmol) in 1,4-dioxane (10 mL) was added concentrated HCl (10 mL). The reaction was heated to 60° C. for 19 h and the solvent was then removed in vacuo. The residue was purified by reverse phase HPLC (Gilson) on a Phenomex C-18 semi-prep column eluting with an acetonitrile:water gradient to afford 1-(2-hydroxy-ethyl)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid as an amorphous white solid (0.4 g, 71.4%). MS: 500 (M+H)+.

reactant | 1-(2-hydroxy-ethyl)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid ethyl ester | 1.14 mmol, 0.6 g | C(C)OC(=O)C1CN(CCC1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)CCO | C27H33N3O6S
reactant | HCl | 10 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(2-hydroxy-ethyl)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid | 0.4 g, 71.4% | OCCN1CC(C(CC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C25H29N3O6S
